Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ on aspirin and plavix with a complex cardiac history 
including a CABG in ___, followed by PCI to grafts in ___, 
hypertension, and hyperlipidemia who presents with 4 days of 
dizziness and dark black stools. 

Patient states that he was in his normal state of health until 
about 4 days ago when he started feeling more fatigues and 
dizzy. He felt like he would pass out on exertion. The symptoms 
had been constant for the last 4 days. He additionally noted 
dark brown/black stools once per day, no increased frequency or 
diarrhea. No chest pain, shortness breath, abdominal pain, 
urinary symptoms, fevers or chills. He has never had a GI bleed 
before and has no prior colonoscopy or endoscopy.

His last know hgb was checked by his PCP office in ___ and at 
the time was 15. 

In the ED, initial vitals:  97 70 122/47 20 100% RA 
 - Exam notable for:  heme positive black stools. No abdominal 
tenderness. Hemodynamically stable.
 - Labs notable for: hgb 8.9, wc 8.7, plt 222, chem 7 normal 
 - Imaging notable for: none 
 - Patient was given: IV pantoprazole   
 - Consults: GI  
 - Vitals prior to transfer: 97.6 63 120/63 14 99% RA 
 
On arrival to the floor, he is able to ambulate without issues 
and endorses the history as above.
 
Past Medical History:
CORONARY ARTERY DISEASE s/p CABG ___, s/p PCI ___
HYPERCHOLESTEROLEMIA 
 
Social History:
___
Family History:
Father died of an MI at age ___, mother is s/p cabg at age ___  
 
 
Physical Exam:
ADMISSION EXAM
=========================
VS: 97.8 109 / 63 64 20 98 Ra
 GENERAL: Pleasant, lying in bed comfortably  
 HEENT: no LAD, ___
 CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  

 LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi  
 ABD: Normal bowel sounds, soft, nontender, nondistended, no 
hepatomegaly, no splenomegaly  
 EXT: Warm, well perfused, no lower extremity edema  
 PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
 NEURO: Alert, oriented, CN II-XII intact, motor and sensory 
function grossly intact  

DISCHARGE EXAM
=========================
VS Temp: 98.0 PO BP: 101/65 R Lying HR: 73 RR: 18 O2 sat: 99% O2 
delivery: Ra 
GENERAL: Pleasant, lying in bed comfortably  
HEENT: no LAD, ___
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no 
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory 
function grossly intact  

 
Pertinent Results:
ADMISSION LABS
===========================
___ 05:40PM   WBC-9.5 RBC-3.05* HGB-8.9* HCT-26.7* MCV-88 
MCH-29.2 MCHC-33.3 RDW-13.8 RDWSD-42.2
___ 05:40PM   PLT COUNT-223
___ 01:15PM   GLUCOSE-117* UREA N-11 CREAT-0.8 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-23 ANION GAP-15
___ 01:15PM   estGFR-Using this
___ 01:15PM   WBC-8.7 RBC-3.01* HGB-8.9* HCT-26.5* MCV-88 
MCH-29.6 MCHC-33.6 RDW-13.5 RDWSD-42.0
___ 01:15PM   NEUTS-67.1 ___ MONOS-8.4 EOS-1.2 
BASOS-0.5 IM ___ AbsNeut-5.84 AbsLymp-1.92 AbsMono-0.73 
AbsEos-0.10 AbsBaso-0.04
___ 01:15PM   PLT COUNT-222
___ 01:15PM   ___ PTT-26.7 ___

DISCHARGE LABS
===========================
___ 06:00AM BLOOD WBC-7.4 RBC-2.84* Hgb-8.3* Hct-25.6* 
MCV-90 MCH-29.2 MCHC-32.4 RDW-14.2 RDWSD-45.2 Plt ___
___ 06:00AM BLOOD Glucose-100 UreaN-9 Creat-0.9 Na-144 
K-4.0 Cl-105 HCO3-25 AnGap-14

IMAGING
===========================
EGD: 
Esophagus:Normal esophagus.
Stomach:
Excavated LesionsMultiple erosions were noted in the antrum. 
Duodenum:Normal duodenum.
Impression:Erosions in the antrum
Otherwise normal EGD to third part of the duodenum
Recommendations:The findings account for the symptoms
High dose PPI for 8 weeks, then regular dose daily indefinitely
Test stool for H pylori, treat if positive
Ok to restart all antiplatelet agents
Follow up with regular providers
___ ongoing blood loss, recurrent melena or failure to recover 
counts, recommend outpatient colonoscopy +/- capsule

MICRO
===========================
  HELICOBACTER PYLORI ANTIBODY TEST (Pending)

 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
___ on aspirin and plavix with a complex cardiac history 
including a CABG in ___, followed by PCI to grafts in ___, 
hypertension, and hyperlipidemia who presents with 4 days of 
dizziness and dark black stools. 

====================
ACUTE ISSUES:
====================
# Melena: 
Hgb 15 in ___, downtrended to 8.9 on admission ___ associated 
symptoms of fatigue, pre-syncope, daily episodes of melena. His 
CBCs were trended closely and remained stable without 
transfusions. He did not have recurrent melena in the hospital. 
He remained hemodynamically stable. He was treated with an IV 
PPI and his DAPT was held. He underwent EGD on ___ which was 
notable for antral erosions. 
-He should continue on high dose PPI for 8 weeks, then regular 
dose daily indefinitely
-Serum H pylori pending on discharge; consider checking stool 
for H pylori and treating if positive as an outpatient
-Consider iron supplementation 

# CAD: 
S/p CABG in ___, followed by PCI to grafts in ___, cath in 
___ with 99% stenosis in the proximal segment of the SVG to RCA 
and a 99% stenosis at the anastomosis of the LIMA to LAD within 
the stent. His ASA was decreased from 325 to 81 and his plavix 
was stopped due to the GI bleed. He was continued on atenolol, 
atorvastatin, and Lisinopril on discharge. 

====================
CHRONIC ISSUES:
====================
#HLD: Continued atorvastatin 40

#HTN: Continued lisinopril 10
====================
TRANSITIONAL ISSUES:
====================
[]Decreased ASA 325 to 81 and stopped plavix. Needs to follow up 
with outpatient cardiologist to review and further discuss these 
medication changes. 
[]He should continue on high dose PPI for 8 weeks, then regular 
dose daily indefinitely
[]Serum H pylori pending on discharge; consider checking stool 
for H pylori and treating if positive as an outpatient
[]Consider iron supplementation 

- New Meds: pantoprazole
- Stopped/Held Meds: plavix 
- Changed Meds: aspirin
- Follow-up appointments: PCP, ___, GI
- Post-Discharge Follow-up Labs Needed: consider stool H. pylori 


# CODE: full (presumed) 
# CONTACT: ___, WIFE 
Phone: ___ 
Other Phone: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO BID 
5. Atorvastatin 40 mg PO QPM 
6. Multivitamins 1 TAB PO DAILY 
7. Aspirin 325 mg PO DAILY 
8. FoLIC Acid 3.2 mg PO DAILY 
9. Vitamin B Complex 1 CAP PO DAILY 
10. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H Duration: 8 Weeks 
You should continue on the high dose (twice daily) for x8 weeks 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*2 
2.  Aspirin 81 mg PO DAILY  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Atenolol 25 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Fish Oil (Omega 3) 1000 mg PO BID  
7.  FoLIC Acid 3.2 mg PO DAILY  
8.  Lisinopril 10 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Vitamin B Complex 1 CAP PO DAILY  
11. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel until you follow up with your 
Cardiologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
Melena; antral erosions
Coronary artery disease

SECONDARY DIAGNOSIS
====================
Hypertension
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   
You came to ___ because you were having GI bleeding. You were 
found to have an erosion in the antral, or bottom portion of 
your stomach. Please see more details listed below about what 
happened while you were in the hospital and your instructions 
for what to do after leaving the hospital.  
It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  
Your ___ Care Team  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- You underwent an endoscopy which showed erosions in the antrum 
of your stomach
- You were treated with an intravenous proton pump inhibitor to 
block acid production
- You improved considerably and were ready to leave the hospital 
 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and other 
health care providers (see below)  
- Please take all of your medications as prescribed (see below). 
 
- Seek medical attention if you have bleeding, fainting, 
abdominal pain, chest pain, shortness of breath or other 
symptoms of concern. 

 
Followup Instructions:
___